US06306891B1
To a 100 mL round bottomed flask with a stirring bar, reflux condenser and an argon inlet was added 1-[1-(4-fluorobenzyl)-4-iodo-1H-pyrrol-2-yl]ethanone AIII-1-1 (1.00 g, 2.91 mmol), phenylboronic acid (0.431 g, 3.54 mmol), tetrakis(triphenylphosphine)palladiumo (0.20 g, 0.17 mmol), barium hydroxide (1.37 g, 4.37 mmol), DME (40 mL), and H2O (5 mL). This well stirred mixture was heated at reflux 4 h. The reaction mixture was cooled to 20° C. and diluted with EtOAc. This solution was washed with H2O, 1N HCl, H2O, and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an amorphous material. The crude product was chromatographed on silica gel using 15% EtOAc in hexanes as eluant to give 1-[1-(4-fluorobenzyl)-4-phenyl-1H-pyrrol-2-yl]ethanone AIX-1-1 as an oil. 1H NMR (CDCl3) δ 2.47 (3H, s), 5.57 (2H, s), 6.98 (2H, m), 7.13 to 7.28 (5H, complex multiplet), 7.36 (2H, m), 7.51 (2H, m).

reactant | 1-[1-(4-fluorobenzyl)-4-iodo-1H-pyrrol-2-yl]ethanone | 2.91 mmol, 1.00 g | FC1=CC=C(CN2C(=CC(=C2)I)C(C)=O)C=C1 | C13H11FINO
reactant | phenylboronic acid | 3.54 mmol, 0.431 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | barium hydroxide | 4.37 mmol, 1.37 g | [OH-].[Ba+2].[OH-]
reactant | DME | 40 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 5 mL | O | H2O
product | 1-[1-(4-fluorobenzyl)-4-phenyl-1H-pyrrol-2-yl]ethanone | FC1=CC=C(CN2C(=CC(=C2)C2=CC=CC=C2)C(C)=O)C=C1 | C19H16FNO
